US07563806B2
5-hydroxy-8-(1-hydroxy-2-{1-[4-(1-hydroxy-cyclopropyl)-benzyl]-cyclopropylamino}-ethyl)-4H-benzo[1,4]oxazin-3-one
Prepared according to general method 3 from 329 mg (1 mmol) 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 203 mg (1 mmol) 1-[4-(1-amino-cyclopropylmethyl)-phenyl]-cyclopropanol. Yield: 29 mg (6%, trifluoroacetate); mass spectroscopy: [M+H]+=411.

reactant | 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 329 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(CO2)=O)C(C(O)O)=O | C17H15NO6
reactant | 1-[4-(1-amino-cyclopropylmethyl)-phenyl]-cyclopropanol | 1 mmol, 203 mg | NC1(CC1)CC1=CC=C(C=C1)C1(CC1)O | C13H17NO
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 5-hydroxy-8-(1-hydroxy-2-{1-[4-(1-hydroxy-cyclopropyl)-benzyl]-cyclopropylamino}-ethyl)-4H-benzo[1,4]oxazin-3-one | OC1=CC=C(C2=C1NC(CO2)=O)C(CNC2(CC2)CC2=CC=C(C=C2)C2(CC2)O)O | C23H26N2O5
